US03947470
1,1-Dibromo-2-(4-ethylphenyl)ethylene (1.1 g., 3.69 mmol.) is dissolved in 20 ml. of dry tetrahydrofuran and maintained under a nitrogen atmosphere. The solution is cooled to -78° and 3.9 ml. of a 1.9 M solution of butyl lithium in hexane is added with stirring. The reaction mixture is stirred 1 hour at -78°, then warmed to ambient temperature and stirred an additional hour. Water is added, the mixture is extracted with petroleum ether, the extracts are combined, dried (MgSO4) and concentrated to give 4-ethylphenylacetylene.

reactant | 1,1-Dibromo-2-(4-ethylphenyl)ethylene | 3.69 mmol, 1.1 g | BrC(=CC1=CC=C(C=C1)CC)Br | C10H10Br2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | butyl lithium | C(CCC)[Li]
reactant | Water | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 4-ethylphenylacetylene | C(C)C1=CC=C(C=C1)C#C | C10H10
